US04672116
2,8-Dichloro-4-hydroxy-5,6-dimethoxyquinazoline
A mixture of 2,4,8-trichloro-5,6-dimethoxyquinazoline (2.0 g, 0.0068 moles), sodium methoxide (0.367 g, 0.0068 moles) and methanol (100 ml) was stirred at reflux for 3 hours. The solvent was removed in vacuo and the residue was treated with water (50 ml), followed by acidification with glacidal acetic acid. The resulting aqueous mixture was extracted with dichloromethane (3×100 ml) and the combined organic extracts were dried over anhydrous sodium sulfate. After filtration and removal of solvent in vacuo the residue was recrystallized twice from methanol. The crystals were dried under vacuum at 40° C. to afford the product (0.168 g), mp 252°-253° C.

reactant | 2,4,8-trichloro-5,6-dimethoxyquinazoline | 0.0068 moles, 2.0 g | ClC1=NC2=C(C=C(C(=C2C(=N1)Cl)OC)OC)Cl | C10H7Cl3N2O2
reactant | sodium methoxide | 0.0068 moles, 0.367 g | C[O-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | 2,8-Dichloro-4-hydroxy-5,6-dimethoxyquinazoline | 0.168 g | ClC1=NC2=C(C=C(C(=C2C(=N1)O)OC)OC)Cl | C10H8Cl2N2O3
